US05064863
A mixture of 0.5 g of p-[(R)-2-[[(RS)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenol, 185 mg of potassium hydroxide, 410 mg of 1-(2-chloroethyl)-4-phenyl-piperazine and 15 ml of n-propanol was heated to 60° for 2.5 hours. The reaction mixture was poured on to ice-water and extracted with ethyl acetate. After evaporation of the solvent and chromatography of the crude product on silica gel with chloroform/n-propanol/saturated ammonia (1000:10:1) there were obtained 340 mg of pure, amorphous (S)-1-[[(R)-α-methyl-p-[2-(4-phenyl-1-piperazinyl)ethoxy]phenethyl]amino]-3-phenoxy-2-propanol, [α]D20 =-19° (c=0.8 in methanol), ε222 =21890.

reactant | p-[(R)-2-[[(RS)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenol | 0.5 g | OC(CN[C@@H](CC1=CC=C(C=C1)O)C)COC1=CC=CC=C1 | C18H23NO3
reactant | potassium hydroxide | 185 mg | [OH-].[K+]
reactant | 1-(2-chloroethyl)-4-phenyl-piperazine | 410 mg | ClCCN1CCN(CC1)C1=CC=CC=C1 | C12H17ClN2
solvent | n-propanol | 15 ml | C(CC)O | C3H8O
product | (S)-1-[[(R)-α-methyl-p-[2-(4-phenyl-1-piperazinyl)ethoxy]phenethyl]amino]-3-phenoxy-2-propanol | C[C@H](CC1=CC=C(C=C1)OCCN1CCN(CC1)C1=CC=CC=C1)NC[C@@H](COC1=CC=CC=C1)O | C30H39N3O3
